* Simplified SPICE model for TPL0401 digital potentiometer
* Node order: A  W  B
.SUBCKT TPL0401 A W B PARAMS: RAB=100k WIPER=0.5

* Compute resistances
.func RAW(WIPER,RAB) { WIPER*RAB }
.func RBW(WIPER,RAB) { (1-WIPER)*RAB }

R_AW A W { RAW(WIPER,RAB) }
R_WB W B { RBW(WIPER,RAB) }

.ENDS TPL0401
